datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([S:2][H:13])([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:12])([H:9])([H:10])[H:11].[C:19]([C:20]([S:21][H:27])[C:22](=[S:23])[H:28])([H:24])([H:25])[H:26]>>[C:0]([C:1]([S:2][H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])([H:10])[H:11].[H:12][C:20]([C:19]([H:24])([H:25])[H:26])([S:21][H:27])[C:22](=[S:23])[H:28],70.1238
[C:0]1([H:5])[C:1]([H:6])=[C:2]([H:7])[C:3]([H:8])=[C:4]1[H:9].[H:10]>>[C:0]1([H:5])([H:10])[C:1]([H:6])=[C:2]([H:7])[C:3]([H:8])=[C:4]1[H:9],0.0
[C:0]1([H:5])=[C:1]([H:6])[C:2]([H:7])([H:8])[C:3]([H:9])=[C:4]1[H:10].[C:11](=[O:12])[H:13]>>[C:0]1([H:5])=[C:1]([H:6])[C:2]([H:8])[C:3]([H:9])=[C:4]1[H:10].[H:7][C:11](=[O:12])[H:13],66.944
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([O:5][O:6][H:17])([H:15])[H:16])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]1([H:14])[C:4]([H:15])([H:16])[O:5]1)[H:10])([H:7])([H:8])[H:9].[O:6][H:17],45.6056
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])([H:14])[H:15])[O:7][O:8][H:19])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([C:2]([H:11])([H:12])[H:13])([O:7][O:8][H:19])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[O:5]1.[O:6][H:18],43.932
[C:0](=[C:1]([C:2]([c:3]1[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]1[H:17])([H:11])[H:12])[H:10])[H:9]>>[C:0]1([H:9])=[C:1]([H:10])[C:2]([H:11])([H:12])[C:3]2[C:4]1([H:13])[C:5]([H:14])=[C:6]([H:15])[C:7]([H:16])=[C:8]2[H:17],53.902472
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])=[C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:18])[H:14])([H:12])[H:13].[c:24]1[c:25]([H:30])[c:26]([H:31])[c:27]([H:32])[c:28]([H:33])[c:29]1[H:34]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])([C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:18])[c:24]1[c:25]([H:30])[c:26]([H:31])[c:27]([H:32])[c:28]([H:33])[c:29]1[H:34])[H:14])([H:12])[H:13],2.55224
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8]([C:9]([H:12])([H:13])[H:14])([H:10])[H:11]>>[C:0](=[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])([H:4])[C:8]([C:9]([H:12])([H:13])[H:14])([H:10])[H:11],14.1838
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6].[S:12]([C:13]([c:14]1[c:15]([H:23])[c:16]([H:24])[c:17]([H:25])[c:18]([H:26])[c:19]1[H:27])([H:21])[H:22])[H:20]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([H:8])[H:21])[H:7])([H:5])[H:6].[S:12]([C:13]([c:14]1[c:15]([H:23])[c:16]([H:24])[c:17]([H:25])[c:18]([H:26])[c:19]1[H:27])[H:22])[H:20],55.2288
[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[O:21]>>[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[H:15][O:21],8.811504
[C:0]([N+:1](=[O:2])[O-:3])([H:4])([H:5])[H:6].[O:7][N:8]=[O:9]>>[C:0]([N+:1](=[O:2])[O-:3])([H:5])[H:6].[H:4][O:7][N:8]=[O:9],133.888
[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[H:15]>>[C:0]([c:1]1[c:2]([H:10])[c:3][c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[H:11][H:15],37.87724992
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:6])[H:5].[C:13](#[C:14][C:15]([C:16]([H:19])([H:20])[H:21])[H:18])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:5].[H:6][C:15]([C:14]#[C:13][H:17])([C:16]([H:19])([H:20])[H:21])[H:18],28.0328
[C:0](#[C:1][c:2]1[c:3]([H:19])[c:4]2[c:5]([H:20])[c:6]([H:21])[c:7]3[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]4[c:12]([H:25])[c:13]([H:26])[c:14]([c:15]1[H:27])[c:16]2[c:17]34)[H:18].[H:28]>>[C:0](#[C:1][c:2]1[c:3]([H:19])[c:4]2[c:5][c:6]([H:21])[c:7]3[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]4[c:12]([H:25])[c:13]([H:26])[c:14]([c:15]1[H:27])[c:16]2[c:17]34)[H:18].[H:20][H:28],66.5158
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])=[C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[H:6].[C:14]([C:15]([C:16]([H:21])([H:22])[H:23])[H:20])([H:17])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[C:15]([C:14]([H:17])([H:18])[H:19])([C:16]([H:21])([H:22])[H:23])[H:20])[H:6],24.3927
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])=[C:5]([C:6]([H:14])([H:15])[H:16])[H:13])[H:9])([H:7])[H:8].[C:17](=[C:18]([C:19]([C:20]([H:25])([H:26])[H:27])[C:21]([H:28])([H:29])[H:30])[H:24])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([C:5]([C:6]([H:14])([H:15])[H:16])[H:13])[C:19]([C:18](=[C:17]([H:22])[H:23])[H:24])([C:20]([H:25])([H:26])[H:27])[C:21]([H:28])([H:29])[H:30])[H:9])([H:7])[H:8],54.141
[H:0][H:1].[O:2][O:3]>>[H:0].[H:1][O:2][O:3],236.982
